US08895547B2
1-(3-Chlorophenyl)-2-hydroxy-2-methylpropane-1-sulfonamide
Under inert gas, 1.65 g of C-(3-chlorophenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide were initially charged in 30 ml of THF, and then, at a temperature of −75° C., 6.67 ml of a 1.6 N methyllithium solution in diethyl ether were added dropwise and the mixture was stirred at constant temperature for 10 minutes. Subsequently, 1.86 ml of acetone were added. After stirring for 5 minutes, the reaction solution was admixed with 15 ml of trifluoroacetic acid and allowed to warm up to room temperature, and the solvent was removed under reduced pressure. The residue was dissolved in 10 ml of dichloromethane, and 2.5 ml of trifluoroacetic acid were added. After stirring at room temperature for 2 hours, the reaction solution was admixed with 50 ml of water, and the solid which precipitated out was filtered off with suction and washed with water. For drying, the product was coevaporated twice more with toluene. This gave the product (1.16 g) with a molecular weight of 263.7 g/mol (C10H14ClNO3S).

reactant | C-(3-chlorophenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide | 1.65 g | ClC=1C=C(C=CC1)CS(=O)(=O)NCC1=C(C=C(C=C1)OC)OC | C16H18ClNO4S
reactant | methyllithium | 1.6 N | C[Li]
reactant | acetone | 1.86 ml | CC(=O)C | C3H6O
reactant | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(3-Chlorophenyl)-2-hydroxy-2-methylpropane-1-sulfonamide | 1.16 g | ClC=1C=C(C=CC1)C(C(C)(C)O)S(=O)(=O)N | C10H14ClNO3S
